US04902835
To a mixture of 3 g 75% sulfuric acid and 15 mL of n-pentane at 20° C. in a round-bottom 50 mL flask was added the crude 1-methoxy-1,1,2-trifluoro-2-decene (1.2 g). The resulting mixture was stirred for 40 hours at 20° C. The reaction mixture was poured into a large excess of ice-water and the liquid extracted twice with diethyl ether. The ether layers were combined, washed with water and brine, then dried over anhydrous magnesium sulfate. Evaporation of solvent gave a yellow oil which was chromatographed on silica gel (5% ethyl acetate in hexanes) to give 0.59 g (64.5%) of methyl (Z)-2-fluoro-2-decenoate as a clear liquid: 1H-NMR (300 MHz, CDCl3): δ 0.86(3H, t), 1.24(1OH), 2.22(2H, dq,J=2,8 Hz), 3.80(3H, s), 6.10(1H, dt, J=8, 33Hz). Mass spectrum: m/e=202 (M+ ). 19F-NMR (CDCl3): φ 131.8(d, J=33.0).

reactant | sulfuric acid | 3 g | S(O)(O)(=O)=O | H2O4S
reactant | 1-methoxy-1,1,2-trifluoro-2-decene | 1.2 g | COC(C(=CCCCCCCC)F)(F)F | C11H19F3O
solvent | n-pentane | 15 mL | CCCCC | C5H12
product | methyl (Z)-2-fluoro-2-decenoate | 0.59 g, 64.5% | F\C(\C(=O)OC)=C/CCCCCCC | C11H19FO2
